### PR TITLE
[Merged by Bors] - chore(LinearAlgebra/AffineSpace): golf entire `attach_affineCombination_of_injective` using `simp`

### PR DESCRIPTION
**Pull request by euprunin**
---
<details>
<summary>Show trace profiling of <code>attach_affineCombination_of_injective</code>: 39 ms before, 83 ms after </summary>

### Trace profiling of `attach_affineCombination_of_injective` before PR 31363
```diff
diff --git a/Mathlib/LinearAlgebra/AffineSpace/Combination.lean b/Mathlib/LinearAlgebra/AffineSpace/Combination.lean
index dbcbffbf97..80a6e546e8 100644
--- a/Mathlib/LinearAlgebra/AffineSpace/Combination.lean
+++ b/Mathlib/LinearAlgebra/AffineSpace/Combination.lean
@@ -399,6 +399,7 @@ theorem affineCombination_vsub (w₁ w₂ : ι → k) (p : ι → P) :
     s.affineCombination k p w₁ -ᵥ s.affineCombination k p w₂ = s.weightedVSub p (w₁ - w₂) := by
   rw [← AffineMap.linearMap_vsub, affineCombination_linear, vsub_eq_sub]
 
+set_option trace.profiler true in
 theorem attach_affineCombination_of_injective [DecidableEq P] (s : Finset P) (w : P → k) (f : s → P)
     (hf : Function.Injective f) :
     s.attach.affineCombination k f (w ∘ f) = (image f univ).affineCombination k id w := by
```
```
ℹ [1120/1120] Built Mathlib.LinearAlgebra.AffineSpace.Combination (2.4s)
info: Mathlib/LinearAlgebra/AffineSpace/Combination.lean:403:0: [Elab.command] [0.011952] theorem attach_affineCombination_of_injective [DecidableEq P] (s : Finset P) (w : P → k)
        (f : s → P) (hf : Function.Injective f) :
        s.attach.affineCombination k f (w ∘ f) = (image f univ).affineCombination k id w :=
      by
      simp only [affineCombination, weightedVSubOfPoint_apply, id, vadd_right_cancel_iff, Function.comp_apply,
        AffineMap.coe_mk]
      let g₁ : s → V := fun i => w (f i) • (f i -ᵥ Classical.choice S.nonempty)
      let g₂ : P → V := fun i => w i • (i -ᵥ Classical.choice S.nonempty)
      change univ.sum g₁ = (image f univ).sum g₂
      have hgf : g₁ = g₂ ∘ f := by
        ext
        simp [g₁, g₂]
      rw [hgf, sum_image]
      · simp only [g₂, Function.comp_apply]
      · exact fun _ _ _ _ hxy => hf hxy
info: Mathlib/LinearAlgebra/AffineSpace/Combination.lean:403:0: [Elab.async] [0.041027] elaborating proof of Finset.attach_affineCombination_of_injective
  [Elab.definition.value] [0.039381] Finset.attach_affineCombination_of_injective
    [Elab.step] [0.038759] 
          simp only [affineCombination, weightedVSubOfPoint_apply, id, vadd_right_cancel_iff, Function.comp_apply,
            AffineMap.coe_mk]
          let g₁ : s → V := fun i => w (f i) • (f i -ᵥ Classical.choice S.nonempty)
          let g₂ : P → V := fun i => w i • (i -ᵥ Classical.choice S.nonempty)
          change univ.sum g₁ = (image f univ).sum g₂
          have hgf : g₁ = g₂ ∘ f := by
            ext
            simp [g₁, g₂]
          rw [hgf, sum_image]
          · simp only [g₂, Function.comp_apply]
          · exact fun _ _ _ _ hxy => hf hxy
      [Elab.step] [0.038753] 
            simp only [affineCombination, weightedVSubOfPoint_apply, id, vadd_right_cancel_iff, Function.comp_apply,
              AffineMap.coe_mk]
            let g₁ : s → V := fun i => w (f i) • (f i -ᵥ Classical.choice S.nonempty)
            let g₂ : P → V := fun i => w i • (i -ᵥ Classical.choice S.nonempty)
            change univ.sum g₁ = (image f univ).sum g₂
            have hgf : g₁ = g₂ ∘ f := by
              ext
              simp [g₁, g₂]
            rw [hgf, sum_image]
            · simp only [g₂, Function.comp_apply]
            · exact fun _ _ _ _ hxy => hf hxy
        [Elab.step] [0.014701] simp only [affineCombination, weightedVSubOfPoint_apply, id, vadd_right_cancel_iff,
              Function.comp_apply, AffineMap.coe_mk]
Build completed successfully (1120 jobs).
```

### Trace profiling of `attach_affineCombination_of_injective` after PR 31363
```diff
diff --git a/Mathlib/LinearAlgebra/AffineSpace/Combination.lean b/Mathlib/LinearAlgebra/AffineSpace/Combination.lean
index dbcbffbf97..f7919e28b5 100644
--- a/Mathlib/LinearAlgebra/AffineSpace/Combination.lean
+++ b/Mathlib/LinearAlgebra/AffineSpace/Combination.lean
@@ -399,20 +399,11 @@ theorem affineCombination_vsub (w₁ w₂ : ι → k) (p : ι → P) :
     s.affineCombination k p w₁ -ᵥ s.affineCombination k p w₂ = s.weightedVSub p (w₁ - w₂) := by
   rw [← AffineMap.linearMap_vsub, affineCombination_linear, vsub_eq_sub]
 
+set_option trace.profiler true in
 theorem attach_affineCombination_of_injective [DecidableEq P] (s : Finset P) (w : P → k) (f : s → P)
     (hf : Function.Injective f) :
     s.attach.affineCombination k f (w ∘ f) = (image f univ).affineCombination k id w := by
-  simp only [affineCombination, weightedVSubOfPoint_apply, id, vadd_right_cancel_iff,
-    Function.comp_apply, AffineMap.coe_mk]
-  let g₁ : s → V := fun i => w (f i) • (f i -ᵥ Classical.choice S.nonempty)
-  let g₂ : P → V := fun i => w i • (i -ᵥ Classical.choice S.nonempty)
-  change univ.sum g₁ = (image f univ).sum g₂
-  have hgf : g₁ = g₂ ∘ f := by
-    ext
-    simp [g₁, g₂]
-  rw [hgf, sum_image]
-  · simp only [g₂,Function.comp_apply]
-  · exact fun _ _ _ _ hxy => hf hxy
+  simp [affineCombination, hf]
 
 theorem attach_affineCombination_coe (s : Finset P) (w : P → k) :
     s.attach.affineCombination k ((↑) : s → P) (w ∘ (↑)) = s.affineCombination k id w := by
```
```
ℹ [1120/1120] Built Mathlib.LinearAlgebra.AffineSpace.Combination (2.4s)
info: Mathlib/LinearAlgebra/AffineSpace/Combination.lean:403:0: [Elab.command] [0.012162] theorem attach_affineCombination_of_injective [DecidableEq P] (s : Finset P) (w : P → k)
        (f : s → P) (hf : Function.Injective f) :
        s.attach.affineCombination k f (w ∘ f) = (image f univ).affineCombination k id w := by
      simp [affineCombination, hf]
info: Mathlib/LinearAlgebra/AffineSpace/Combination.lean:403:0: [Elab.async] [0.084734] elaborating proof of Finset.attach_affineCombination_of_injective
  [Elab.definition.value] [0.083451] Finset.attach_affineCombination_of_injective
    [Elab.step] [0.082443] simp [affineCombination, hf]
      [Elab.step] [0.082438] simp [affineCombination, hf]
        [Elab.step] [0.082430] simp [affineCombination, hf]
          [Meta.Tactic.simp.discharge] [0.030281] univ_eq_empty discharge ❌️
                IsEmpty ↥s
            [Meta.synthInstance] [0.028689] ❌️ Nonempty ↥s
Build completed successfully (1120 jobs).
```
</details>

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/AffineSpace/Combination.lean [hunk 1]
```diff
@@ -402,17 +402,7 @@ theorem affineCombination_vsub (w₁ w₂ : ι → k) (p : ι → P) :
...
-  let g₁ : s → V := fun i => w (f i) • (f i -ᵥ Classical.choice S.nonempty)
-  let g₂ : P → V := fun i => w i • (i -ᵥ Classical.choice S.nonempty)
-  change univ.sum g₁ = (image f univ).sum g₂
-  have hgf : g₁ = g₂ ∘ f := by
-    ext
-    simp [g₁, g₂]
-  rw [hgf, sum_image]
-  · simp only [g₂,Function.comp_apply]
-  · exact fun _ _ _ _ hxy => hf hxy
+  simp_all [affineCombination]
```
Comment (grunweg) [inline Mathlib/LinearAlgebra/AffineSpace/Combination.lean]: Does `simp [*]` also work? Do you really need to simplify at every local hypothesis?

**Review by grunweg — COMMENTED** [review]
I like the golf, but am hesitant about the slow-down. Perhaps a more frugal use of simp can help? I've commented with two questions below.

File: Mathlib/LinearAlgebra/AffineSpace/Combination.lean (hunk 1 above)
Comment (euprunin) [reply Mathlib/LinearAlgebra/AffineSpace/Combination.lean]: Thanks! You're right. Now using `simp [affineCombination, hf]` instead.

**Comment by grunweg** [comment]
I think this one is good enough, thanks.
bors merge
